US09447046B2
To a solution of 6-bromo-1,2,3,4-tetrahydronaphthalen-1-one (5.00 g, 22.0 mmol) and ZnI2 (300 mg) in toluene (50 mL) was added TMSCN (4.36 g, 44.0 mmol) at rt. The mixture was heated at 60° C. overnight. The reaction mixture was cooled to rt, and a solution of LAH (20.0 mL, 2.4 M in THF, 44.0 mmol) was added slowly. The reaction stirred at 40° C. for 2 h. The reaction was cooled to 0° C. was quenched with addition of EtOAc (10 mL) at 0 OC, and then water (5 mL) and aqueous 10% NaOH (5 mL). The mixture was filtered through Celite and concentrated to give the 4.5 g (79%) of the crude 1-(aminomethyl)-6-bromo-1,2,3,4-tetrahydronaphthalen-1-ol intermediate as a brown oil. To a solution of this intermediate (4.5 g, 17.4 mmol) in toluene (100 mL) was added 4N HCl/dioxane (20 mL) solution, and the mixture was stirred at reflux for 10 min. The mixture was cooled to room temperature and concentrated to give 3.6 g (75%) of the title compound as a tan solid. [M+H] calc'd for C11H12BrN, 237, 239. found 237, 239.

reactant | 6-bromo-1,2,3,4-tetrahydronaphthalen-1-one | 22.0 mmol, 5.00 g | BrC=1C=C2CCCC(C2=CC1)=O | C10H9BrO
reactant | TMSCN | 44.0 mmol, 4.36 g | [Si](C)(C)(C)C#N | C4H9NSi
reactant | LAH | 44.0 mmol, 2.4 M, 20.0 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | ZnI2 | 300 mg | [Zn+2].[I-].[I-]
product | 1-(aminomethyl)-6-bromo-1,2,3,4-tetrahydronaphthalen-1-ol | 4.5 g, 79% | NCC1(CCCC2=CC(=CC=C12)Br)O | C11H14BrNO
